US09399646B2
Step 1: Ethyl 3-(4-iodophenyl)propiolate
To a mixture of 1,4-diiodobenzene (1.0 g, 3.03 mmol), Pd(PPh3)2Cl2 (580 mg, 0.606 mmol) and CuI (115 mg, 0.606 mmol) in triethylamine (20 mL), ethyl propiolate (590 mg, 6.06 mmol) was added under N2. The resulting mixture was stirred at 80° C. for 16 h under N2. The reaction mixture was diluted with EtOAc (50 mL) and filtered. The filtrate was washed with water (3×10 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified on a silica gel column using 0-10% EtOAc in petroleum ether to afford the title compound (360 mg, 30%). 1H NMR (DMSO-d6, 400 MHz): δ 7.86 (d, 2H), 7.45 (d, 2H), 4.24 (q, 2H), 1.25 (t, 3H).

reactant | 1,4-diiodobenzene | 3.03 mmol, 1.0 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | ethyl propiolate | 6.06 mmol, 590 mg | C(C#C)(=O)OCC | C5H6O2
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.606 mmol, 580 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.606 mmol, 115 mg | [Cu]I
product | Ethyl 3-(4-iodophenyl)propiolate | 360 mg, 30% | IC1=CC=C(C=C1)C#CC(=O)OCC | C11H9IO2
